US06414144B1
B. Ethyl (2S)-2-[(1,2,3,4-Tetrahydrocyclopenta[b]Indol-5-ylcarbonyl)Amino]-Propanoate
To a stirred, cooled (0° C.) solution of crude 1,2,3,4-tetrahydrocyclopenta[b]indole-5-carboxylic acid (60 mmol, 12 g), L-alanine ethyl ester (72 mmol, 11 g), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC) (72 mmol, 14 g), 1-hydroxybenzotriazole (HOBT) (72 mmol, 10 g) in CH2Cl2 (100 mL) was slowly added diisopropylethylamine (360 mmol, 46 g). The reaction mixture was stirred overnight while warming to room temperature. The reaction was concentrated in vacuo and the resulting oil was partitioned between water and ethyl acetate. The organic layer was washed with saturated aqueous NH4Cl, NaHCO3, and brine, dried over MgSO4, filtered and concentrated to a brown oil. The crude material was purified by chromatography through silica gel (Biotage) eluting with 15% ethyl acetate-hexanes to afford a yellow oil (8.4 mmol, 2.5 g, 14%).

reactant | 1,2,3,4-tetrahydrocyclopenta[b]indole-5-carboxylic acid | 60 mmol, 12 g | C1CCC=2NC3=C(C=CC=C3C21)C(=O)O | C12H11NO2
reactant | L-alanine ethyl ester | 72 mmol, 11 g | C(C)OC([C@@H](N)C)=O | C5H11NO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 72 mmol, 14 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 72 mmol, 10 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 360 mmol, 46 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (2S)-2-[(1,2,3,4-Tetrahydrocyclopenta[b]Indol-5-ylcarbonyl)Amino]-Propanoate | 8.4 mmol, 2.5 g, 14% | C1CCC=2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)OCC)C | C17H20N2O3
